US05597836
4-[2-[4-(1,1-dimethylethoxy)phenyl]ethoxy]pyridine (Compound 9A)
To a suspension of about one-half gram of 60% NaH (dispersion in oil) in 10 mL of dry DMF was added 1.5 g (0.0077 m) of 2-[4-(1,1-dimethylethoxy)phenyl]ethanol. The mixture was stirred in a warm water bath until hydrogen evolution ceased. After 30-40 minutes, 1 g (0.0064 m) of 4-(methylsulfonyl)pyridine in 5-7 mL of DMF was added. The mixture was stirred at room temperature overnight, then diluted with water. The product was extracted into CH2Cl2, and the extracts were washed with saturated brine, filtered through phase separating paper, and concentrated in vacuo. The resulting material was azeotroped with xylene to remove excess DMF. This material was adsorbed onto silica gel and chromatographed over silica gel 60 (230-400 mesh) using CH2Cl2 →50% EtOAc/CH2Cl2 to give the title product as an oil. Yield 0.7 g.

reactant | NaH | [H-].[Na+]
reactant | 2-[4-(1,1-dimethylethoxy)phenyl]ethanol | 1.5 g | CC(C)(OC1=CC=C(C=C1)CCO)C | C12H18O2
reactant | hydrogen | [H][H] | H2
reactant | 4-(methylsulfonyl)pyridine | 1 g | CS(=O)(=O)C1=CC=NC=C1 | C6H7NO2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5-7 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[2-[4-(1,1-dimethylethoxy)phenyl]ethoxy]pyridine | CC(C)(OC1=CC=C(C=C1)CCOC1=CC=NC=C1)C | C17H21NO2
